US06127386
171a. 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-(5-pyrimidinyl)pyridine
To the solution of 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-bromopyridine (580 mg, 1.69 mmol) in toluene (10 mL) was added tetrekis(triphenylphosphine)palladium (58 mg, 1%) and tributyl(pyrimidinyl)tin (0.75 g, 2.03 mmol). The mixture was stirred and heated under reflux for 16 h. Solvent was evaporated and the residue was chromatographed (silica gel; hexane/EtOAc, 10:1 to 2:3) to afford an oil (450 mg, 78%): 1H NMR (CDCl3, 300 MHz) δ 1.40 (s, 9H), 2.30-2.44 (m, 2H), 3.88-3.96 (m, 2H), 4.22 (m, 1H), 4.44 (m, 1H), 4.58 (m, 1H), 7.44 (m, 1H), 8.44 (m, 2H), 8.98 (s, 2H); MS (CI/NH3) m/z 343 (M+H)+.

reactant | 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-bromopyridine | 1.69 mmol, 580 mg | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC=C(C1)Br | C14H19BrN2O3
reactant | tributyl(pyrimidinyl)tin | 2.03 mmol, 0.75 g | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-(5-pyrimidinyl)pyridine | 450 mg, 78% | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC=C(C1)C=1C=NC=NC1 | C18H22N4O3
